US04666915
Ethyl 1,6-dihydro-2-methylthio-6-oxo-5-pyrimidinecarboxylate (8 g) and 2-ethoxyaniline (6.1 g) are added to ethanol (60 ml), and the mixture is refluxed with stirring for 48 hours. After cooling, the precipitate is collected by filtration, washed with ethanol and recrystallized from a mixture of DMF and water to give ethyl 1,6-dihydro-2-(2-ethoxyanilino)-6-oxo-5-pyrimidinecarboxylate (7.5 g). M.p. 220°-221° C.

reactant | Ethyl 1,6-dihydro-2-methylthio-6-oxo-5-pyrimidinecarboxylate | 8 g | CSC=1NC(C(=CN1)C(=O)OCC)=O | C8H10N2O3S
reactant | 2-ethoxyaniline | 6.1 g | C(C)OC1=C(N)C=CC=C1 | C8H11NO
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | ethyl 1,6-dihydro-2-(2-ethoxyanilino)-6-oxo-5-pyrimidinecarboxylate | 7.5 g | C(C)OC1=C(NC=2NC(C(=CN2)C(=O)OCC)=O)C=CC=C1 | C15H17N3O4
